### PR TITLE
[Merged by Bors] - chore(NumberTheory/RamificationInertia/HilbertTheory): weaken hypotheses

### PR DESCRIPTION
**Pull request by xroblot**
The degree results of `HilbertTheory.lean` used `Ring.HasFiniteQuotients A` plus `p ≠ ⊥` to get perfectness of the residue field of `p`. They now take `[p.IsPrime]` and `[Algebra.HasSeparableResidueFieldsAt A B p]` instead.

Prepared with Claude Code 🤖

---

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/GoingUp.lean [hunk 1]
```diff
@@ -367,12 +367,18 @@ theorem exists_ideal_over_maximal_of_isIntegral [Algebra.IsIntegral R S]
   obtain ⟨Q, -, Q_prime, hQ⟩ := exists_ideal_over_prime_of_isIntegral P ⊥ hP
   exact ⟨Q, isMaximal_of_isIntegral_of_isMaximal_under _ (hQ.symm ▸ P_max), hQ⟩
 
+theorem exists_prime_ideal_liesOver_of_isIntegral [Algebra.IsIntegral R S] [FaithfulSMul R S]
+    (P : Ideal R) [P.IsPrime] :
+    ∃ (Q : Ideal S), Q.IsPrime ∧ Q.LiesOver P := by
```
Comment (tb65536) [inline Mathlib/RingTheory/Ideal/GoingUp.lean:372]: I tend to use `nonempty_primesOver` to get such a prime.

File: Mathlib/RingTheory/QuasiFinite/Basic.lean [hunk 2]
```diff
@@ -90,6 +90,11 @@ lemma finite_primesOver [QuasiFinite R S] (I : Ideal R) : (I.primesOver S).Finit
     obtain ⟨J, h₁, ⟨rfl⟩⟩ := this
     exact h inferInstance
 
+lemma primesOver_ncard_ne_zero [QuasiFinite R S] [Algebra.IsIntegral R S] [FaithfulSMul R S]
+    (I : Ideal R) [I.IsPrime] : (I.primesOver S).ncard ≠ 0 := by
```
Comment (tb65536) [inline Mathlib/RingTheory/QuasiFinite/Basic.lean:94]: This simplifies to `(I.primesOver S).Nonempty`, I think, so I'm not sure if we want it.

File: Mathlib/RingTheory/Ideal/GoingUp.lean (hunk 1 above)
Comment (xroblot) [reply Mathlib/RingTheory/Ideal/GoingUp.lean]: Sorry. I missed that. I deleted that theorem.

File: Mathlib/RingTheory/QuasiFinite/Basic.lean (hunk 2 above)
Comment (xroblot) [reply Mathlib/RingTheory/QuasiFinite/Basic.lean]: It' gone !

**Review by tb65536 — APPROVED** [review]
Thanks!

maintainer merge

**Comment by riccardobrasca** [comment]
Thanks!

bors merge
